US08183275B2
A mixture of benzyl 3-(4-{2-[5-(cyclohexylmethyl)-1H-imidazole-2-yl]ethyl}phenyl)pyridine-2-carboxylate (70 mg, 0.146 mmol), palladium on carbon (7 mg) and ethanol (3 mL) was stirred under a hydrogen atmosphere for 2 hours. The mixture was filtered, and the filtrate was concentrated to afford 3-(4-{2-[5-(cyclohexylmethyl)-1H-imidazole-2-yl]ethyl}phenyl)pyridine-2-carboxylic acid. LCMS: m/e 390 (M+H)+. 1HNMR (CD3OD, 500 MHz): δ 7.79 (1H, d, J=7.5 Hz), 7.42 (1H, d, J=7.5 Hz), 7.08 (1H, 7.5 Hz), 7.01 (1H, s), 3.11 (2H, t, J=6.0 Hz), 2.97 (2H, t, J=6.5 Hz), 2.45 (2H, d, J=7.5 Hz), 1.65 (4H, m), 1.51 (1H, m), 1.16 (4H, m), 0.90 (2H, m).

reactant | benzyl 3-(4-{2-[5-(cyclohexylmethyl)-1H-imidazole-2-yl]ethyl}phenyl)pyridine-2-carboxylate | 0.146 mmol, 70 mg | C1(CCCCC1)CC1=CN=C(N1)CCC1=CC=C(C=C1)C=1C(=NC=CC1)C(=O)OCC1=CC=CC=C1 | C31H33N3O2
catalyst | palladium on carbon | 7 mg | [Pd] | Pd
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 3-(4-{2-[5-(cyclohexylmethyl)-1H-imidazole-2-yl]ethyl}phenyl)pyridine-2-carboxylic acid | C1(CCCCC1)CC1=CN=C(N1)CCC1=CC=C(C=C1)C=1C(=NC=CC1)C(=O)O | C24H27N3O2
